US09376422B2
Step 2: Synthesis of methyl 5-chloro-3-(isobutyl(methyl)amino)-2-methylbenzoate
To a stirred solution of methyl 5-chloro-3-(isobutyl amino)-2-methylbenzoate (1.0 g, 3.9 mmol) in dry acetonitrile (10 mL), cesium carbonate (2.55 g, 7.8 mmol) and methyl iodide (5.55 g, 39 mmol) were added. The mixture was heated at 80° C. for 12 h. On completion, the mixture was cooled to room temperature and filtered. The residue was washed with ethyl acetate and the filtrate was concentrated to the title compound (1.0 g, 95%).

reactant | methyl 5-chloro-3-(isobutyl amino)-2-methylbenzoate | 3.9 mmol, 1.0 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)NCC(C)C | C13H18ClNO2
reactant | cesium carbonate | 7.8 mmol, 2.55 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 39 mmol, 5.55 g | CI | CH3I
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | methyl 5-chloro-3-(isobutyl(methyl)amino)-2-methylbenzoate | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(C)CC(C)C | C14H20ClNO2
